* C:\Users\User\OneDrive\Desktop\Emi_simulations\flyback_emi\schematics\EMI for flyback converter.wxsch
*#SIMETRIX
R6 R6_P L3_N 5
V2 V2_P 0  Sin(0 325 50 0 0)
V1 V1_P 0 5 Pulse(0 12 0 50n 50n 4.2576922u 15.384615u)
L2 0 L2_N 50u   
R8 C8_N L4_N 5
C1 V2_P C1_N 250n   
D2 R13_N D5_N d1n4007
X$TX2 R13_N R6_P TX2_S1P C8_N Ideal_TxTX2 pinnames: P1P P1N S1P S1N 
.subckt Ideal_TxTX2 P1P P1N S1P S1N 
L1 P1P P1N 10m 
L2 S1P S1N 10m 
K12 L1 L2 998m 
.ends 

L1 V2_P L1_N 50u   
R7 C4_N CHASSIS 50
D1 TX1_S1N D1_N D1N4148
X$TX1 D5_N TX1_P1N 0 TX1_S1N Ideal_TxTX1 pinnames: P1P P1N S1P S1N 
.subckt Ideal_TxTX1 P1P P1N S1P S1N 
L1 P1P P1N 400u 
L2 S1P S1N 1u 
K12 L1 L2 980m 
.ends 

L3 L1_N L3_N 8m   
R9 R9_P R6_P 100
R5 C5_N CHASSIS 1K
R4 C3_N CHASSIS 50
R3 C1_N CHASSIS 1K
X$Q1 TX1_P1N V1_P 0 IRF530 pinnames: D G S
R2 D5_N C7_N 6.8k
R13 C16_N R13_N 220
R12 R12_P C8_N 100
R11 TX2_S1P R11_N 220
R1 D1_N 0 2.5
L4 L2_N L4_N 8m   
C5 0 C5_N 250n   
D6 TX1_P1N C7_N D1N4148
C4 L2_N C4_N 1u   
D5 TX2_S1P D5_N d1n4007
C3 L1_N C3_N 1u   
D4 0 TX2_S1P d1n4007
C2 D1_N 0 100u   
D3 0 R13_N d1n4007
C9 TX1_P1N CHASSIS 2p   
C8 R6_P C8_N 1u   
C7 D5_N C7_N 15n   
C6 D5_N 0 150u   
C17 R11_N CHASSIS 10n   
C16 CHASSIS C16_N 10n   
C15 TX2_S1P R12_P 10n   
C14 R13_N R9_P 10n   
C11 TX2_S1P CHASSIS 4.7n   
C10 CHASSIS R13_N 4.7n   
.tran 200m
*.ac dec 25 1k 30000000







